US04000169
Hydrolysis: 400 mg. (2 mmol) of 3(R),7-dimethyl octanoic acid ethyl ester was refluxed in 6N NaOH (1 ml.) and methanol (4 ml.) for 2 hours. It was worked up as in Example 10 to give 207 mg. (60% yield) of 3(R),7-dimethyl octanoic acid (R-(+)-dihydrocitronellic acid), [α]D25 + 6.81° (c=5.039, CHCl3).

reactant | 3(R),7-dimethyl octanoic acid ethyl ester | 2 mmol | C(C)OC(C[C@@H](CCCC(C)C)C)=O | C12H24O2
reactant | methanol | 4 ml | CO | CH4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | NaOH | 6N, 1 ml | [OH-].[Na+]
product | 3(R),7-dimethyl octanoic acid | 60% yield | C[C@@H](CC(=O)O)CCCC(C)C | C10H20O2
